US09255094B2
Preparation of 2,8-dimethyl-5-(2-methyl-2-(pyridin-4-yl)propyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound No. 1-49)
2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (145 mg, 0.727 mmol), tetra n-butyl ammonium bromide (11 mg, 0.036 mmol), and 2-methyl-2-(pyridin-4-yl)propyl methanesulfonate (200 mg, 1.20 mmol) were taken into 50% NaOH (6 mL). The reaction mixture was heated overnight at 100° C. Reaction was monitored by TLC and LCMS. After completion of the reaction, the reaction mixture was extracted with EtOAc and water. The organic layer was separated, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude compound was purified by column chromatography to yield 30 mg of product. 1H NMR (CDCl3, Freebase) d (ppm): 8.50 (d, 2H), 7.2-7.13 (m, 3H), 6.88 (d, 2H), 4.03 (s, 2H), 3.62 (s, 2H), 2.63 (t, 2H), 2.50 (s, 3H), 2.42 (s, 3H), 2.25 (t, 2H), 1.43 (s, 6H).

reactant | 2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.727 mmol, 145 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | 2-methyl-2-(pyridin-4-yl)propyl methanesulfonate | 1.20 mmol, 200 mg | CS(=O)(=O)OCC(C)(C1=CC=NC=C1)C | C10H15NO3S
reactant | NaOH | 6 mL | [OH-].[Na+]
catalyst | tetra n-butyl ammonium bromide | 0.036 mmol, 11 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,8-dimethyl-5-(2-methyl-2-(pyridin-4-yl)propyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 30 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(C2=CC=NC=C2)C)CC1 | C22H27N3
